US07781454B2
Step 1: 3-chloro-5-{[5-chloro-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile
3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile (140 mg, 0.459 mmol) and lithium tert-butoxide (37 mg, 0.459 mmol) were dissolved in DMF (1 mL) under N2 and allowed to stir for 20 minutes. After this time, the reaction was cooled to 0° C. and 3-(chloromethyl)-N,1-bis(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-6-amine as a solution in DMF (1 mL) was added dropwise. After 1 hour, the reaction was quenched with saturated aqueous ammonium chloride (3 mL), diluted with water (3 mL) and the mixture was extracted with ethyl acetate (2×25 mL). The combined organic fractions were washed with dilute brine (4×10 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by automated column chromatography on silica gel (12 g), eluting with 0-100% EtOAc/hexanes to give the title compound. LRMS (M+1)=690.5.

reactant | 3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | 0.459 mmol, 140 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2NN=NC21)Cl | C13H6Cl2N4O
reactant | lithium tert-butoxide | 0.459 mmol, 37 mg | CC(C)([O-])C.[Li+]
reactant | 3-(chloromethyl)-N,1-bis(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-6-amine | ClCC1=NN(C2=NC(=CC=C21)NCC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C23H23ClN4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-{[5-chloro-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2N(N=NC21)CC2=NN(C1=NC(=CC=C12)NCC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)Cl | C36H28Cl2N8O3
